US04929612
Ethyl 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetate
Ethyl 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-hydroxyiminoacetate (60.4 g) was dissolved in dimethylsulfoxide (210 ml), followed by an addition of potassium carbonate (96.48 g) under ice-cooling. The resulting mixture was stirred for 10 minutes. Bromofluoromethane (19 g) was thereafter added, followed by stirring at room temperature for 3 hours. Ethyl acetate (1 l) was added to the reaction mixture. The resulting mixture was washed with water and then with saturated saline, and was added with anhydrous magnesium sulfate to dry the mixture. The solvent was distilled out and ethanol (120 ml) was added to the residue. Crystals thus precipitated were collected by filtration and then washed to obtain 58.2 g of the title compound.

reactant | Ethyl 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-hydroxyiminoacetate | 60.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC(=NS1)/C(/C(=O)OCC)=N/O | C25H22N4O3S
reactant | potassium carbonate | 96.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromofluoromethane | 19 g | BrCF | CH2BrF
reactant | Ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 210 ml | CS(=O)C | C2H6OS
product | Ethyl 2-(5-tritylamino-1,2,4-thiadiazol-3-yl)-(Z)-2-fluoromethoxyiminoacetate | 58.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=NC(=NS1)/C(/C(=O)OCC)=N/OCF | C26H23FN4O3S
